US05489593
1-[Benz[g]indolyl-2-carbonyl]-4-[3-(1-methylethylamino)-2-pyridinyl]piperazine (III)
Following the general procedure of EXAMPLE 16A and making non-critical variations but starting with benz[g]indole-2-carboxylic acid (PREPARATION 112, 0.3 g) and 1-[3-(1-methylethylamino)-2-pyridinyl]piperazine (PREPARATION 9, 0.34 g), the title compound is obtained, m.p. 190°.

reactant | benz[g]indole-2-carboxylic acid | 0.3 g | N1C(=CC2=CC=C3C(=C12)C=CC=C3)C(=O)O | C13H9NO2
reactant | 1-[3-(1-methylethylamino)-2-pyridinyl]piperazine | 0.34 g | CC(C)NC=1C(=NC=CC1)N1CCNCC1 | C12H20N4
product | 1-[Benz[g]indolyl-2-carbonyl]-4-[3-(1-methylethylamino)-2-pyridinyl]piperazine | CC(C)NC1=C(N=CC=C1)N2CCN(CC2)C(=O)C3=CC4=C(N3)C5=CC=CC=C5C=C4 | C25H27N5O
